* D:\thatme\M1\prj\GD\DPT_MODEL\pyltspice\simulation_folder\UniversalOpAmp2.asc
V1 +V 0 15
V2 -V 0 -15
V3 N001 0 PULSE(-50m 50m 250n 1n 1n 1u 2u)
R1 OUT 0 2k
C1 OUT 0 28.8n
XU1 N001 OUT +V -V OUT level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.tran 1.5u
.lib UniversalOpAmp2.lib
.backanno
.end
